US09079866B2
3-Bromo-2-((tetrahydro-2H-pyran-4-yl)oxy)pyridine
The title compound was prepared in a manner similar to that described in Step A for the synthesis of 4-((3-bromopyridin-2-yl)oxy)tetrahydro-2H-thiopyran 1,1-dioxide using tetrahydro-2H-pyran-4-ol. 1H NMR (400 MHz, DMSO-d6) δ 8.11 (dd, J=4.8, 1.7, 1H), 7.99 (dd, J=7.7, 1.7, 1H), 6.90 (dd, J=7.7, 4.8, 1H), 5.22 (m, 1H), 3.86-3.77 (m, 2H), 3.49 (m, 2H), 1.95 (m, 2H), 1.61 (m, 2H).

reactant | 4-((3-bromopyridin-2-yl)oxy)tetrahydro-2H-thiopyran 1,1-dioxide | BrC=1C(=NC=CC1)OC1CCS(CC1)(=O)=O | C10H12BrNO3S
reactant | tetrahydro-2H-pyran-4-ol | O1CCC(CC1)O | C5H10O2
product | 3-Bromo-2-((tetrahydro-2H-pyran-4-yl)oxy)pyridine | BrC=1C(=NC=CC1)OC1CCOCC1 | C10H12BrNO2
